US07402581B2
tert-Butyl {2-(4-cyanophenyl)-4-[(triisopropylsilyl)oxy]butyl}methylcarbamate (0.37 g) was dissolved in THF (8 mL) at 0° C. Hydrochloric acid (8 ml of 6M solution) was added and the mixture stirred overnight at room temperature. The volatiles were removed by evaporation and then removed azeotropically after the addition of methanol (5×50 mL). The residue was dissolved in water and the solution alkalised to pH 8-9 by the addition of Na2CO3 (s) and then extracted thrice with ethyl acetate (100 mL). The organic solution was dried over Na2SO4 and then the solvent was evaporated. The product was purified by flash chromatography (CH2Cl2-MeOH—NH4OH, 9:1:0.1). There was obtained 0.10 g, 60%) of 4-{3-Hydroxy-1-[(methylamino)methyl]propyl}benzonitrile as a solid. 1H NMR (300 MHz, CDCl3): 1.9-2.0 (m, 2H), 2.5 (s, 3H), 2.8-2.9 (m, 3H), 3.4-3.7 (m, 3H), 3.7 (m, 1H), 7.3 (d, 2H), 7.6 (d, 2H); LCMS: m/z 205 (M+1)+.

reactant | tert-Butyl {2-(4-cyanophenyl)-4-[(triisopropylsilyl)oxy]butyl}methylcarbamate | 0.37 g | C(#N)C1=CC=C(C=C1)C(CN(C(OC(C)(C)C)=O)C)CCO[Si](C(C)C)(C(C)C)C(C)C | C26H44N2O3Si
reactant | Hydrochloric acid | 6M, 8 ml | Cl | ClH
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 4-{3-Hydroxy-1-[(methylamino)methyl]propyl}benzonitrile | OCCC(CNC)C1=CC=C(C#N)C=C1 | C12H16N2O
